US04912231
AIternative Preparation of (cis)-1-Benzoyl-4-mesyloxy-L-proline
A solution of (cis)-1-benzoyl-4-hydroxy-L-proline, methyl ester (169.2 g, 0.679 mole) and triethylamine (104.2 ml, 0.747 mole) in dichloromethane (3.3 liters) was cooled to -10° C. under nitrogen and treated dropwise with methanesulfonyl chloride (59.85 ml, 0.74 mole). The reaction was stirred an additional 30 minutes at -5° C. to -10° C. and the volatiles were removed in vacuo. The residue was treated with ethyl acetate and washed with water, 1N HCl, saturated sodium bicarbonate solution, and brine. The organic solution was dried, filtered, and concentrated in vacuo. The residue was dissolved in THF (2.1 liters) and treated with 3.36 N LiOH solution (423 ml) and stirred at room temperature for 1 hour. The THF was removed in vacuo and the aqueous solution was acidified to pH 4. The resulting solid was filtered, washed with ice water, and recrystallized from 95% ethanol-ethyl acetate to afford 130 g of the title compound.

reactant | (cis)-1-benzoyl-4-hydroxy-L-proline, methyl ester | 0.679 mole, 169.2 g | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)OC)C[C@@H](C1)O | C13H15NO4
reactant | triethylamine | 0.747 mole, 104.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.74 mole, 59.85 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 3.3 liters | ClCCl | CH2Cl2
product | (cis)-1-Benzoyl-4-mesyloxy-L-proline | 130 g | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)OS(=O)(=O)C | C13H15NO6S
